US05977178
To a solution of (2-t-butoxycarbonylamino-2-methylpropoxy) acetic acid (504 mg, 2.0 mmol) in dichloromethane (10 ml) were added 1-hydroxy-7-azabenzotriazole (278 mg, 2.0 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (429 mg, 2.3 mmol) and the mixture was stirred for 30 min. 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-propyl acetate (500 mg, 1.0 mmol) in dichloromethane (10 mL) was added followed by diisopropylethylamine (0.23 ml, 1.32 mmol) and the mixture was stirred overnight at room temperature. The mixture was washed with water (10 ml), aqueous sodium bicarbonate (10 ml), water (2×10 ml), brine (10 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (60 g) with ethyl acetate/heptane 4:1 to give 623 mg of 3-((2R)-2-(N-((2R)-2-(N-((2-(tert-butoxycarbonylamino)-2-methylpropoxy) acetyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate as an oil. The obtained product was taken up in 50% trifluoroacetic acid in dichloromethane (3 ml) and stirred for 10 min. Then saturated sodium bicarbonate was added until pH 8 and the organic phase was separated. The aqueous phase was extracted with dichloromethane (2×10 ml) and the combined organic phases were washed with brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The product was redissolved in water (30 ml) and the mixture was liophilized to give 434 mg of the title compound as an amorphous powder.

reactant | (2-t-butoxycarbonylamino-2-methylpropoxy) acetic acid | 2.0 mmol, 504 mg | C(C)(C)(C)OC(=O)NC(COCC(=O)O)(C)C | C11H21NO5
reactant | 1-hydroxy-7-azabenzotriazole | 2.0 mmol, 278 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.3 mmol, 429 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-((2R)-2-(N-((2R)-2-methylamino-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)-propyl acetate | 1.0 mmol, 500 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)=O | C29H35N3O4
reactant | diisopropylethylamine | 1.32 mmol, 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-((2R)-2-(N-((2R)-2-(N-((2-(tert-butoxycarbonylamino)-2-methylpropoxy) acetyl)-N-methylamino)-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | 623 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(COCC(C)(C)NC(=O)OC(C)(C)C)=O)=O)=O | C40H54N4O8
